Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right nondisplaced tibial plateau fracture, C7 transverse 
process fracture, right occipital bone fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female presents with R tibial plateau fracture and C7 TP 
fracture s/p mechanical
fall down 14 stairs.  States she was rushing to leave the house 
this morning and tripped falling on stairs.  Endorses head 
strike no loss of consciousness.  Endorses pain in the right 
knee and in the posterior neck.

Denies any numbness or paresthesias.  Denies any pelvic pain. 
Denies any other extremity injuries.  Denies history of injuries 
to the right knee.

Of note had a recent injury in ___ of this year to the right 
hip, underwent a DHS.  Cannot recall the details of the 
procedure but believes it was done here at the ___ 
___.

 
Past Medical History:
Gastric bypass 
hypertension
diabetes 
Hx of ETOH abuse 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Temp: 98.2 PO BP: 156/79 R Lying HR: 82 RR: 18 O2
sat: 97% O2 delivery: RA 
VS: Refer to flowsheet
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
EXT: 

Right lower extremity:
- Right lower extremity in hinged knee brace
- ___ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- foot warm and well-perfused
 
Pertinent Results:
See OMR
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a nondisplaced right tibial plateau fracture, C7 
transverse process fracture, right occipital bone fracture, and 
was admitted to the orthopedic surgery service.  All of her 
injuries can be managed nonoperatively.  Her C-spine fracture is 
being managed in a hard cervical collar at all times, and her 
tibial plateau fracture is managed with an unlocked hinged knee 
brace, touchdown weightbearing.  The patient's pain was 
well-controlled with p.o. pain medication. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.  
 At the time of discharge the patient's pain was well controlled 
with oral medications. The patient is touchdown weightbearing in 
the right lower extremity, and will be discharged on Lovenox for 
DVT prophylaxis while in rehab, to be transition to aspirin 325 
mg daily after discharge home. The patient will follow up in the 
orthopedic trauma clinic in the orthopedic spine clinic per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.  
 
Medications on Admission:
Lisinopril 20mg daily
Trazodone 50mg qhs
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Diazepam - CIWA protocol 10 mg PO Q2H:PRN CIWA > or = 10  
3.  Docusate Sodium 100 mg PO BID  
4.  Enoxaparin Sodium 40 mg SC QHS  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*36 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Thiamine 100 mg PO DAILY  
10.  TraZODone 25 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Right nondisplaced tibial plateau fracture
C7 transverse process fracture and a right
occipital bone fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
 -You were in the hospital due to nondisplaced fractures of your 
right tibia and your cervical spine.  Both of these injuries are 
being managed nonoperatively sorry
 - Resume your regular activities as tolerated, but please 
follow your weight bearing precautions strictly at all times.  

 ACTIVITY AND WEIGHT BEARING:  
 -Touchdown weightbearing in the right lower extremity in an 
unlocked hinged knee brace.
Remain in the hard c-collar at all times. It is okay to remove 
for hygiene and meals.

 MEDICATIONS:  
1) Take Tylenol ___ every 6 hours around the clock. This is an 
over the counter medication.  
2) Add oxycodone as needed for increased pain. Aim to wean off 
this medication in 1 week or sooner. This is an example on how 
to wean down:  
 Take 1 tablet every 3 hours as needed x 1 day,  
 then 1 tablet every 4 hours as needed x 1 day,  
 then 1 tablet every 6 hours as needed x 1 day,  
 then 1 tablet every 8 hours as needed x 2 days,  
 then 1 tablet every 12 hours as needed x 1 day,  
 then 1 tablet every before bedtime as needed x 1 day.  
 Then continue with Tylenol for pain.  
3) Do not stop the Tylenol until you are off of the narcotic 
medication.  
4) Per state regulations, we are limited in the amount of 
narcotics we can prescribe. If you require more, you must 
contact the office to set up an appointment because we cannot 
refill this type of pain medication over the phone.  
5) Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and continue following 
the bowel regimen as stated on your medication prescription 
list. These meds (senna, colace, miralax) are over the counter 
and may be obtained at any pharmacy.  
6) Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.  
7) Please take all medications as prescribed by your physicians 
at discharge.  
8) Continue all home medications unless specifically instructed 
to stop by your surgeon.  
 
 ANTICOAGULATION:  
 - Please take Lovenox daily for 4 weeks.  Once you are 
discharged home from rehab, you may complete the 4-week course 
of anticoagulation with aspirin 325 mg daily.

 Call your surgeon's office with any questions.  

 THIS PATIENT IS EXPECTED TO REQUIRE LESS THAN 30 DAYS OF REHAB
Physical Therapy:
Activity:  Cervical collar: At all times. ___ remove for hygiene 
and eating. 

Activity:   Activity:  Out of bed w/ assist
 Right lower extremity:  Touchdown weight bearing
Unlocked ___ brace

Treatments Frequency:
None
 
Followup Instructions:
___